US09029391B2
(S)-3-(1-(tert-butoxy)-2-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methylisoquinolin-1(2H)-one
A −78° C. suspension of 3-((1S)-2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone (12 mg, 0.021 mmol) and amberlyst 15 resin (6 mg, 0.036 mmol) in Dichloromethane (DCM) (290 μl) was treated with isobutylene until the volume approximately doubled. The reaction mixture was sealed and allowed to warm to ambient temperature. After 48 h, the reaction mixture was cooled to −78° C. and then opened to the atmosphere. The reaction mixture was filtered through a short pad of silica and rinsed with EtOAc. The filtrate was concentrated in vacuo. The residue was dissolved in Tetrahydrofuran (THF) (290 μl) and treated with 1.0 M TBAF in THF (145 μl, 0.145 mmol). After 2 h, the reaction mixture was filtered through a short pad of silica gel and washed with EtOAc. The filtrate was concentrated in vacuo and purified by reverse phase hplc to afford the title compound (6 mg, 0.016 mmol, 43.6% yield) as a white solid: Rt=1.02, ES+ MS: 380 (M+1).

reactant | 3-((1S)-2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}-1-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methyl-1(2H)-isoquinolinone | 0.021 mmol, 12 mg | CC(C)(C)[Si](OC[C@@H](O)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H39NO3Si
reactant | isobutylene | CC(C)=C | C4H8
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 0.145 mmol, 145 μl | O1CCCC1 | C4H8O
solvent | Dichloromethane | 290 μl | ClCCl | CH2Cl2
product | (S)-3-(1-(tert-butoxy)-2-hydroxyethyl)-4-(3,4-dimethylphenyl)-2-methylisoquinolin-1(2H)-one | 0.016 mmol, 6 mg, 43.6% yield | C(C)(C)(C)O[C@H](CO)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)C)C)=O)C | C24H29NO3
